US08487108B2
A solution of (S)-tert-butyl 2-((tert-butyldimethylsilyloxy)methyl)aziridine-1-carboxylate (5 g, 17.42 mmol) in NH3/MeOH (50 mL) was stirred at 50-60° C. for 48 h. After the reaction was complete, the mixture was concentrated in vacuo. The residue was purified on silica gel chromatography to afford (S)-tert-butyl 1-amino-3-(tert-butyldimethylsilyloxy)propan-2-ylcarbamate (2.5 g, 47%). 1H NMR (CDCl3, 300 MHz) δ 3.67 (m, 3H), 2.88 (d, 2H), 2.71 (s, 3H), 1.44 (s, 9H), 0.88 (s, 9H), 0.0 (s, 6H).

reactant | (S)-tert-butyl 2-((tert-butyldimethylsilyloxy)methyl)aziridine-1-carboxylate | 17.42 mmol, 5 g | [Si](C)(C)(C(C)(C)C)OCC1[N@](C1)C(=O)OC(C)(C)C | C14H29NO3Si
reactant | NH3 MeOH | 50 mL | N.CO
product | (S)-tert-butyl 1-amino-3-(tert-butyldimethylsilyloxy)propan-2-ylcarbamate | 2.5 g, 47% | NC[C@@H](CO[Si](C)(C)C(C)(C)C)NC(OC(C)(C)C)=O | C14H32N2O3Si
